US08106070B2
To a 25 mL one neck round bottom flask was added tert-butyl 4′-(3-hydroxy-1-methylpropyl)-biphenyl-2-carboxylate (197 mg, 0.604 mmol), N-methylmorpholine N-oxide (106 mg, 0.906 mmol), molecular sieves (300 mg) and methylene chloride (6 mL). The mixture was stirred while tetrabutyl ammonium ruthenate (21 mg, 0.0604 mmol) was added. The resulting reaction mixture was stirred at room temperature for 30 minutes, filtered through a stem of silica gel (5 g) and washed with mixture of ethyl acetate:hexanes (2:3). The filtrate was concentrated to afford tert-butyl 4′-(1-methyl-3-oxopropyl)biphenyl-2-carboxylate:

reactant | tert-butyl 4′-(3-hydroxy-1-methylpropyl)-biphenyl-2-carboxylate | 0.604 mmol, 197 mg | OCCC(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C21H26O3
reactant | N-methylmorpholine N-oxide | 0.906 mmol, 106 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4′-(1-methyl-3-oxopropyl)biphenyl-2-carboxylate | CC(CC=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C21H24O3
